US08859773B2
Step 3: 3-bromo-4-(chloromethyl)-1-tert-pentyl-1H-pyrazole
A solution of (3-bromo-1-tert-pentyl-1H-pyrazol-4-yl)methanol (675 mg, 2.73 mmol) in dichloromethane (10 mL) was cooled to 0° C. Triethylamine (0.53 mL, 3.8 mmol) and methanesulfonyl chloride (0.28 mL, 3.6 mmol) were added. The reaction was stirred at 0° C. for 15 minutes, then warmed to room temperature and stirred for 1.5 hours. The reaction was diluted with ethyl acetate, washed with water and brine, dried over sodium sulfate, filtered, and concentrated to give the title compound (725 mg, 100%) as a clear oil. 1H NMR (400 MHz, CDCl3, δ): 7.48 (s, 1H), 4.47 (s, 2H), 1.86 (q, J=7.48 Hz, 2H), 1.52 (s, 6H), 0.69 (m, 3H).

reactant | (3-bromo-1-tert-pentyl-1H-pyrazol-4-yl)methanol | 2.73 mmol, 675 mg | BrC1=NN(C=C1CO)C(C)(C)CC | C9H15BrN2O
reactant | Triethylamine | 3.8 mmol, 0.53 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.6 mmol, 0.28 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-bromo-4-(chloromethyl)-1-tert-pentyl-1H-pyrazole | 725 mg, 100% | BrC1=NN(C=C1CCl)C(C)(C)CC | C9H14BrClN2
